US05491144
b) 4,5-dianilino-phthalic acid anhydride
A solution of 2 g of 4,5-dianilino-phthalic acid (Example 1'b)) in acetanhydride is heated to 60° C. for 30 min, resulting in a strongyellow colouring of the reaction mixture. After evaporation, yellow crystals of the crude title compound remain which are recrystallized from acetone/diethyl ether; the title compound has a m.p. of 196°-197° C. C20H14N2O3 : molecular weight calculated 330, found 330 (FD-MS).

reactant | 4,5-dianilino-phthalic acid | 2 g | N(C1=CC=CC=C1)C=1C=C(C(C(=O)O)=CC1NC1=CC=CC=C1)C(=O)O | C20H16N2O4
solvent | acetanhydride | CC(=O)OC(=O)C | C4H6O3
product | 4,5-dianilino-phthalic acid anhydride | N(C1=CC=CC=C1)C=1C=C2C(C(=O)OC2=O)=CC1NC1=CC=CC=C1 | C20H14N2O3
